US06987008B1
Cells of Escherichia coli JM109 introduced with each of the aforementioned mutant EB-AP genes were added at a density of 100 mg/dl in terms of dry cell weight to a solution in an acetate buffer (pH 4.0) containing 12 g/dl of pyrophosphoric acid and 6 g/dl of inosine, and reaction was performed at 30° C. for 24 hours while pH was maintained at 4.0. The results of measurement of the produced amount of 5′-inosinic acid are shown in Table 4. The produced inosinic acid consisted only of 5′-inosinic acid, and 2′-inosinic acid and 3′-inosinic acid byproducts were not observed at all.

reactant | acetate | pH 4.0 | C(C)(=O)[O-]
reactant | pyrophosphoric acid | P(=O)(O)(O)OP(=O)(O)O | H4O7P2
reactant | inosine | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(O)=NC=NC12 | C10H12N4O5
product | 5′-inosinic acid | [C@@H]1([C@H](O)[C@H](O)[C@@H](COP(=O)(O)O)O1)N1C=NC=2C(O)=NC=NC12 | C10H13N4O8P
